US07612114B2
6-[2-(Benzylethylamino)-4-hydroxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide according to an analogous synthetic method to Example 337 described below, benzylethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (151 mg) was used according to an analogous synthetic method to Example 111 described below to provide the title compound (90 mg).

reactant | N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide | C(C)N(C(C1=CC=CC=C1)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H29NO3
reactant | benzylethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 151 mg | C(C1=CC=CC=C1)CCNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H31NO2
product | 6-[2-(Benzylethylamino)-4-hydroxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-ol | 90 mg | C(C1=CC=CC=C1)CCNC1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O | C25H27NO2
